US04775692
An excess solution of diazomethane in ether was added to an ice-cooled and stirred solution of m-chlorobenzoic acid (8.26 g, 52.8 mmol) in 50 ml of ether. The mixture was concentrated and distilled under reduced pressure to give a colorless transparent oil of methyl m-chlorobenzoate (6.1 g, 35.8 mmol, yield 67.8%, b.p. 116°-121° C./21 mmHg), which was assigned the structure by the following data:

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | m-chlorobenzoic acid | 52.8 mmol, 8.26 g | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
solvent | ether | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | methyl m-chlorobenzoate | 35.8 mmol, 6.1 g, yield 67.8% | ClC=1C=C(C(=O)OC)C=CC1 | C8H7ClO2
